********************************************************************************************************
*
* Nexperia NXV55UN
* Polarity N - Channel
* Ratings 30V/50.0mOhm/2A
* Revision N#: 1.0
* Created on 2020-09-10 16:13:39
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT NXV55UN D G S

* Package impedance
LD D 5 400.0p
RLD2 D 5 1.005
RLD1 5 4 2.300m
LG G 1 424.4p
RLG G 1 1.067
LS S 8 801.5p
RLS2 S 8 2.014
RLS1 8 7 13.83m

* Drain,gate and source resistances
RD 3 4 28.01m TC= 3.402m,1.001n
RG 1 2 1.700
RS 6 7 1.000u

* Body Diode
RBD 9 4 46.00m TC= 4.000m,23.00u
DBD 7 9 D_DBD
RDS 7 4 10.56G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 712.4G
CGS 2 6 321.0p

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 3 2 VALUE {V(13,0)*I(V11)}
E11 12 0 3 2 1
E12 13 0 TABLE {V(12)}
+ (-10.0,240.0)
+ (-2.71,240.0)
+ (0.01,129.0)
+ (0.1,122.5)
+ (0.2,115.8)
+ (0.5,100.9)
+ (1.0,85.27)
+ (2.0,68.61)
+ (3.0,59.47)
+ (4.0,53.52)
+ (5.0,49.24)
+ (6.0,45.99)
+ (8.0,41.33)
+ (10.0,38.09)
+ (12.0,35.66)
+ (15.0,32.95)
+ (20.0,29.85)
+ (30.0,26.18)

.MODEL MINT NMOS Vto= 770.8m Kp= 46.25 Nfs= 133.4G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 2.521K

.MODEL D_DBD D Bv= 36.01 Ibv= 250.0u Rs= 1.000u Is= 122.5f
+ N= 1.000 M= 400.0m VJ= 437.1m Fc= 500.0m Cjo= 164.2p Tt= 18.50n

.ENDS NXV55UN

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************