*****************************************************************
* NXP BUK7M45-40E
*
* Polarity N-Channel
* Ratings 40V/4.400000E-002OHMS/20.9147523912783A
*
* Date Created Fri Feb 05 04:17:54 2016
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7M45-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.8e-10
RLS2 SOURCE 8 1.20637157897848
RLS1 8 7 0.00055

RDS 7 4 4000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0261192387087272 TC=0.00488237863082073,3.33726423442174E-06
RBD 9 4 0.00612219864449531 TC=0.00488237863082073,3.33726423442174E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 2.87375017699683e-10
RG 1 2 1.78043576

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	178.937534071688
+ -16	178.937534071688
+ -15	178.937534071688
+ -12	178.937534071688
+ -10	178.937534071688
+ -8	178.937534071688
+ -6	178.937534071688
+ -5	178.937534071688
+ -4	178.937534071688
+ -3	178.937534071688
+ -2	178.937534071688
+ -1	169
+ -0.5	152.76
+ -0.2	142.4
+ -0.1	142.22
+ 0	133.064
+ 0.1	117.1988
+ 0.2	116.954
+ 0.5	98.8516
+ 1	82.8804
+ 2	71.2196
+ 3	65.5584
+ 4	62.0044
+ 5	59.4408
+ 6	57.4616
+ 8	54.5692
+ 10	52.4928
+ 12	50.87
+ 15	48.9564
+ 16	48.388
+ 20	46.5352
+ 25	44.6984
+ 30	43.2652
+ 32	42.7644



.MODEL MINT NMOS(Vto=3.96603782416308 Kp=2.347727e+001 Nfs=1010000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=760e-10 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=6.67290492189524e-14
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=1.421592e-10 Tt=7.24e-09)

.ENDS

