* A = PIN 1: diode anode
* K = PIN 2: diode cathode
* E = PIN 3: BJT emitter
* C = PIN 4: BJT collector
.SUBCKT PS2561F A K E C
D1 A D LED
* OptoLED
Vsense D K 0
* Forward If current sense
* using Vsense
Hd R 0 Vsense 1
*I-V (current dependent voltage source)
Rd R T 100K
Cd T 0 20p
*Gctr C B TABLE
*+ {'(V(T) <= 3m ?
*+ ((-80000000000*PWR(V(T),5)+800000000*PWR(V(T),4)-3000000*PWR(V(T),3)+5177.2*PWR(V(T),2)+0.2453*V(T)-0.00005)*1.04/700):
*+ ((9000000*PWR(V(T),5)-998113*PWR(V(T),4)+42174*PWR (V(T),3)-861.32*PWR(V(T),2)+ 9.0836*V(T)-0.0078)*0.945/700))'}
*+ (0,0) (0.1m, 0.1m)
Gctr C B TABLE
+ {(V(T) <= 3m )?
+ ((-80000000000*PWR(V(T),5)+800000000*PWR(V(T),4)-3000000*PWR(V(T),3)+5177.2*PWR(V(T),2)+0.2453*V(T)-0.00005)*1.04/700):
+ (     (9000000*PWR(V(T),5)   -998113*PWR(V(T),4)  +42174*PWR(V(T),3)-861.32*PWR(V(T),2)+9.0836*V(T)-0.0078)*0.945/700)} =
+ (0,0) (0.1m, 0.1m)

Q1 C B E detector
.model LED D IS=1p N=1.999644
+ RS=0 BV=6 IBV=10u
+ CJO=10p EG=1.424 TT=500n
.model detector NPN IS=2.857P BF=700
+ NF=1.1786653 BR=20 TF=80.64p
+ TR=4.56886n
+ CJE=16.315P CJC=21.1189P VAF=250 ISS=0
+ CJS=44.5657p ISC=120p
.ends


.SUBCKT 1N4148 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 1N4148
*
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
.ENDS
