.SUBCKT Murata53100C 1 2 3 4
* inductances
L1 1 2 80u
L2 3 4 2mu
* coupling factors
K1 L1 L2 1
* Series Resistors
R1 1 2 7m
R2 3 4 5.6
.ENDS Murata53100C


.SUBCKT Murata56050C 1 2 3 4
* inductances
L1 1 2 320u
L2 3 4 4.5m
* coupling factors
K1 L1 L2 1
* Series Resistors
R2 3 4 0.2
.ENDS Murata56050C

