* Only one wrap, it is SMD
.SUBCKT Murata53100C 1 2 3 4
* inductances
L1 1 2 20u
L2 3 4 2mu
* coupling factors
K1 L1 L2 1
* Series Resistors
*R1 1 2 7m
*R2 3 4 5.6
.ENDS Murata53100C

*Four wraps
.SUBCKT Murata56050C 1 2 3 4
* inductances
L1 1 2 320u
L2 3 4 4.5m
* coupling factors
K1 L1 L2 1
* Series Resistors
*R2 3 4 0.2
.ENDS Murata56050C

* Modified from LTspice standard library
.model 2N2222 NPN (IS=1E-14 VAF=100
+ BF=200 IKF=0.3 XTB=1.5 BR=3
+ CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12
+ ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2)

.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 

